US08975254B2
N—((S)-1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide
Sodium borohydride (8.21 mg, 0.217 mmol) was added into a flask under nitrogen atmosphere. Dry ethanol was added and the mixture was stirred. (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide (45 mg, 0.108 mmol) in dry ethanol was added slowly and the mixture was stirred at RT for 2.5 h. pH of the reaction mixture was adjusted to ˜2 by addition of 1M HCl and the mixture was evaporated to dryness. The product was purified by Flash-chromatography. Yield 57.5%. 1H-NMR (400 MHz; DMSO): 1.13 (d, 3H), 1.37 (d, 3H), 4.22-4-51 (m, 3H), 4.73-4.85 (m, 1H), 5.38 (d, 1H), 6.39 (s, 1H), 6.99 (d, 1H), 7.82 (d, 1H), 7.86 (d, 1H), 7.97 (d, 1H), 8.09 (d, 1H), 13.00 (s, 1H)

reactant | Sodium borohydride | 0.217 mmol, 8.21 mg | [BH4-].[Na+]
reactant | (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.108 mmol, 45 mg | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)Cl)C | C19H16ClFN6O2
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | Yield 57.5% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(C)O | C19H18ClFN6O2
